US08242260B2
To a round bottom flask containing tert-butyl 3-bromo-2,6-difluorophenylcarbamate (1 g, 3.3 mmol) was added DCM (3 mL) and TFA (3 mL). The reaction was stirred for 2 hours at room temperature. The volatiles were removed in vacuo, and the resulting residue was neutralized with saturated aqueous NaHCO3 solution to pH 8. The aqueous mixture was extracted with EtOAc. Organic phase was washed with water, brine, dried (Na2SO4), filtered and concentrated onto silica. Purification by flash chromatography (SiO2; 0-50% EtOAc in heptane) afforded 425 mg (63%) of 3-bromo-2,6-difluoroaniline: LCMS(m/z) 208.0 (MH+); tR=0.80 minute; 1H NMR (400 MHz, DMSO-d6) δ 5.54 (s, 2H) 6.78 (ddd, J=9.0, 7.4, 5.5 Hz, 1H) 6.85-6.95 (m, 1H).

reactant | tert-butyl 3-bromo-2,6-difluorophenylcarbamate | 3.3 mmol, 1 g | BrC=1C(=C(C(=CC1)F)NC(OC(C)(C)C)=O)F | C11H12BrF2NO2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-2,6-difluoroaniline | 425 mg, 63% | BrC=1C(=C(N)C(=CC1)F)F | C6H4BrF2N
